US07592477B2
Step c) Preparation of {{4-[(dodecylamino)carbonyl]benzyl}[4-(trifluoromethyl)phenyl]amino}(oxo)acetic acid
The same procedure as employed in the preparation of Example 1 (step c) using ethyl{{4-[(dodecylamino)carbonyl]benzyl}[4-(trifluoromethyl)phenyl]amino}(oxo)acetate and lithium hydroxide dihydrate gave the title compound as a white solid (89%). 1H NMR (DMSO-d6, 300 MHz) δ 8.39 (s, 1H), 7.77 (m, 4H), 7.45 (d, 2H, J=7.9 Hz), 7.27 (d, 2H, J=7.5 Hz), 5.07 (s, 2H), 3.20 (m, 2H), 1.48 (m, 2H), 1.28 (m, 18H), 0.84 (t, 3H, J=5.9 Hz). M−(APCI): 489.2 (M-CO2). HPLC (Condition A), Rt: 6.44 min (HPLC purity: 97.4%).

reactant | ethyl{{4-[(dodecylamino)carbonyl]benzyl}[4-(trifluoromethyl)phenyl]amino}(oxo)acetate | C(C)OC(C(=O)N(C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(=O)NCCCCCCCCCCCC)=O | C31H41F3N2O4
reactant | lithium hydroxide dihydrate | O.O.[OH-].[Li+]
product | {{4-[(dodecylamino)carbonyl]benzyl}[4-(trifluoromethyl)phenyl]amino}(oxo)acetic acid | 89% | C(CCCCCCCCCCC)NC(=O)C1=CC=C(CN(C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)=O)C=C1 | C29H37F3N2O4
